US04772703
(B) 3-(2-quinazolinylmethoxy)benzoic acid
A mixture of 5.50 g (0.01869 moles) of 3-(2-quinazolinylmethoxy)benzoic acid methyl ester, 30.1 ml (0.0301 moles) of 1N sodium hydroxide and 22 ml of tetrahydrofuran is heated at reflux for 50 minutes. The mixture is allowed to come to room temperature and evaporated in vacuo giving a solid residue. After the addition of water and filtration through Celite the filtrate is acidified with 2.4M hydrochloric acid. The resulting precipitate is filtered, washed with water until the washings are pH~6. The precipitate is dried overnight in a vacuum desiccator and azeotroped with toluene on a rotoevaporator. Drying in vacuo gives the title compound, 4.75 g colorless solid, m.p. 221°-224° C.; IR (KBr) 1695, 1576, 1285, 1220 cm-1 ; NMR (DMOS-d6) 9.73 (s, 1H), 7.34-8.22 (8H, aromatic) 5.56 (2H, s), 3.43 (1H, broad).

reactant | 3-(2-quinazolinylmethoxy)benzoic acid methyl ester | 0.01869 moles, 5.50 g | COC(C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=N1)=O | C17H14N2O3
reactant | sodium hydroxide | 0.0301 moles, 1N, 30.1 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2.4M | Cl | ClH
solvent | water | O | H2O
product | 3-(2-quinazolinylmethoxy)benzoic acid | N1=C(N=CC2=CC=CC=C12)COC=1C=C(C(=O)O)C=CC1 | C16H12N2O3
